US04373106
In 150 ml of methanol was dissolved 3.8 g of 5-{1-chloro-2-[2-(2-methoxyphenoxy)ethylamino]ethyl}-2-methoxybenzenesulfonamide hydrochloride and after adding thereto 0.5 g of 10% palladium carbon, it was dechlorinated under a hydrogen stream at normal temperature and pressure. Then, palladium carbon was filtered away and the filtrate was concentrated under reduced pressure to provide 3.1 g of 2-methoxy-5-{2-[2-(2-methoxyphenoxy)ethylamino]ethyl}benzenesulfonamide hydrochloride, which was recrystallized from 120 ml of a mixture of methanol and ethanol (1:4 by volume ratio) to provide 2.3 g of the colorless crystals thereof.

reactant | 5-{1-chloro-2-[2-(2-methoxyphenoxy)ethylamino]ethyl}-2-methoxybenzenesulfonamide hydrochloride | 3.8 g | Cl.ClC(CNCCOC1=C(C=CC=C1)OC)C=1C=CC(=C(C1)S(=O)(=O)N)OC
solvent | methanol | 150 ml | CO | CH4O
catalyst | palladium carbon | 0.5 g | [C].[Pd]
product | 2-methoxy-5-{2-[2-(2-methoxyphenoxy)ethylamino]ethyl}benzenesulfonamide hydrochloride | 3.1 g | Cl.COC1=C(C=C(C=C1)CCNCCOC1=C(C=CC=C1)OC)S(=O)(=O)N | InChI=1S/C18H24N2O5S.ClH/c1-23-15-5-3-4-6-16(15)25-12-11-20-10-9-14-7-8-17(24-2)18(13-14)26(19,21)22;/h3-8,13,20H,9-12H2,1-2H3,(H2,19,21,22);1H
